US06150373
A mixture of 100 mg (0.26 mmol) of 3-(2,6-dichlorophenyl)-7-methane-sulfonyl-3,4-dihydro-1-methylpyrimido[4,5-d]pyrimidin-2(1H)-one and 0.25 ml (2.6 mmol) of 4-fluoroaniline was heated at 180° C. for 30 minutes and then cooled. 30 ml of ethyl acetate and 30 ml of 2M hydrochloric acid were added to the residue. The phases were separated and the organic phase was washed with 20 ml of brine, dried over magnesium sulfate, filtered and evaporated. The residue was chromatographed on silica gel using ethyl acetate/hexane (2:3) for the elution. Product-containing fractions were combined and evaporated to give 40 mg (37%) of 3-(2,6-dichlorophenyl)-7-(4-fluoroanilino)-3,4-dihydro-1-methylpyrimido[4,5-d]-pyrimidin-2(1H)-one as a light grey solid of melting point 208-211° C.

reactant | 3-(2,6-dichlorophenyl)-7-methane-sulfonyl-3,4-dihydro-1-methylpyrimido[4,5-d]pyrimidin-2(1H)-one | 0.26 mmol, 100 mg | ClC1=C(C(=CC=C1)Cl)N1C(N(C2=NC(=NC=C2C1)S(=O)(=O)C)C)=O | C14H12Cl2N4O3S
reactant | 4-fluoroaniline | 2.6 mmol, 0.25 ml | FC1=CC=C(N)C=C1 | C6H6FN
reactant | hydrochloric acid | 2M, 30 ml | Cl | ClH
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | 3-(2,6-dichlorophenyl)-7-(4-fluoroanilino)-3,4-dihydro-1-methylpyrimido[4,5-d]-pyrimidin-2(1H)-one | 40 mg, 37% | ClC1=C(C(=CC=C1)Cl)N1C(N(C2=NC(=NC=C2C1)NC1=CC=C(C=C1)F)C)=O | C19H14Cl2FN5O
